US04477671
5-Hydroxy-2-(1-hydroxy-2-tert-butylaminoethyl)-pyridine
Into a 250 ml. Parr bottle there were introduced 250 mg. (0.79 mmole) of 5-benzyloxy-2-(1-hydroxy-2-tert-butylaminoethyl)pyridine N-oxide and 125 mg. of 5% palladium on carbon of 45 psi. The mixture was shaken at room temperature for 6 hours. The catalyst was removed by filtration under a nitrogen atmosphere followed by removel of the solvent in vacuo to give the product which was triturated with isopropanol and filtered. In this manner, there was obtained 175 mg. (75%) of 5-hydroxy-2-(1-tert-butylaminoethyl)pyridine as white crystals, m.p. 165°-168° C. (decomp).

reactant | 5-benzyloxy-2-(1-hydroxy-2-tert-butylaminoethyl)pyridine N-oxide | 0.79 mmole | C(C1=CC=CC=C1)OC=1C=CC(=[N+](C1)[O-])C(CNC(C)(C)C)O | C18H24N2O3
reactant | 5-hydroxy-2-(1-tert-butylaminoethyl)pyridine | OC=1C=CC(=NC1)C(C)NC(C)(C)C | C11H18N2O
catalyst | palladium on carbon | [Pd] | Pd
product | 5-Hydroxy-2-(1-hydroxy-2-tert-butylaminoethyl)-pyridine | OC=1C=CC(=NC1)C(CNC(C)(C)C)O | C11H18N2O2
